US07018988B2
(2S)-1-[4-(dimethylamino)butanoyl]-N-(9-ethyl-9H-carbazol-3-yl)-4-methylene-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from 1-(tert-butoxycarbonyl)-4-methyleneproline, 4-(dimethylamino)butanoyl chloride, and 9-ethyl-9H-carbazol-3-amine the title compound was obtained in 51% purity by LC/MS. MS(ESI+): m/z=433.6.

reactant | 1-(tert-butoxycarbonyl)-4-methyleneproline | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CC(C1)=C | C11H17NO4
reactant | 4-(dimethylamino)butanoyl chloride | CN(CCCC(=O)Cl)C | C6H12ClNO
reactant | 9-ethyl-9H-carbazol-3-amine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
product | (2S)-1-[4-(dimethylamino)butanoyl]-N-(9-ethyl-9H-carbazol-3-yl)-4-methylene-2-pyrrolidinecarboxamide | CN(CCCC(=O)N1[C@@H](CC(C1)=C)C(=O)NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC)C | C26H32N4O2
